US09169254B2
2-[2-(2-Chloro-ethoxy)-ethoxy]-ethanol (2.00 mL, 13.8 mmol) was dissolved in ethanol (14.0 mL). A solution of methylamine in methanol (40%, 14.0 mL, 138 mmol) and sodium iodide (103 mg, 0.67 mmol) were added, and the mixture was stirred at 60° C. for 18 hours and then stirred at 75° C. for seven hours in a nitrogen atmosphere. The reaction solution was concentrated under reduced pressure to give 2-[2-(2-methylamino-ethoxy)-ethoxy]-ethanol as a crude product.

reactant | 2-[2-(2-Chloro-ethoxy)-ethoxy]-ethanol | 13.8 mmol, 2.00 mL | ClCCOCCOCCO | C6H13ClO3
reactant | methylamine | CN | CH5N
reactant | methanol | 138 mmol, 14.0 mL | CO | CH4O
reactant | sodium iodide | 0.67 mmol, 103 mg | [I-].[Na+]
solvent | ethanol | 14.0 mL | C(C)O | C2H6O
product | 2-[2-(2-methylamino-ethoxy)-ethoxy]-ethanol | CNCCOCCOCCO | C7H17NO3
